US08217043B2
c) {[1-(3-Chloro-benzyl)-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 1-(3-chloro-benzyl)-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester (1.0 eq.) and sodium glycinate (15 eq.). ESI (m/z): 376 (M+H)+.

reactant | 1-(3-chloro-benzyl)-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 1.0 eq. | C(C)OC(=O)C1=C(C=2N(N(C1=O)CC1=CC(=CC=C1)Cl)C=CC2)O | C17H15ClN2O4
reactant | sodium glycinate | 15 eq. | NCC(=O)[O-].[Na+]
product | {[1-(3-Chloro-benzyl)-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-acetic acid | ClC=1C=C(CN2N3C(C(=C(C2=O)C(=O)NCC(=O)O)O)=CC=C3)C=CC1 | C17H14ClN3O5
